US06960588B1
A28. 3-[5-(3-Hydroxyprop-1-ynyl)furan-2-yl]prop-2-yn-1-ol
Pd(Ph3P)4 (580 mg, 3%), CuI (140 mg, 2%) and propargyl alcohol (4.65 ml, 67.7 mmol) are added successively to a solution of 2,5-dibromofuran (5.1 g, 22.6 mmol) in n-propylamine (100 ml), and the mixture is stirred at RT for 1 h and then under reflux for 24 h. More propargyl alcohol (2.0 ml, 33 mmol) is then added and the mixture is stirred under reflux for another 8 h. After cooling, the reaction mixture is filtered off with suction through kieselguhr and washed with ethyl acetate (50 ml). The organic phase is concentrated under reduced pressure. Further purification is carried out by chromatography [Tol/Ac (8:2)] over a silica gel column. This gives the title compound (3.8 g) as a colorless solid. TLC, silica gel (glass plates), [toluene/acetone (8:2)], Rf=0.40.

reactant | propargyl alcohol | 67.7 mmol, 4.65 ml | C(C#C)O | C3H4O
reactant | 2,5-dibromofuran | 22.6 mmol, 5.1 g | BrC=1OC(=CC1)Br | C4H2Br2O
reactant | propargyl alcohol | 33 mmol, 2.0 ml | C(C#C)O | C3H4O
solvent | n-propylamine | 100 ml | C(CC)N | C3H9N
catalyst | Pd(Ph3P)4 | 580 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 140 mg | [Cu]I
product | 3-[5-(3-Hydroxyprop-1-ynyl)furan-2-yl]prop-2-yn-1-ol | 3.8 g | OCC#CC1=CC=C(O1)C#CCO | C10H8O3
